US04980349
a) Preparation of 3-benzyl-4-chloroaniline
6.8 g of lithium aluminium hydride, followed by 44.4 g of aluminium chloride and then 22 g of 5-amino-2-chlorobenzophenone dissolved in anhydrous ether are added in small amounts, under a nitrogen atmosphere, into 1000 ml of anhydrous ether which is cooled to 0° C. After stirring for 2 hours and under reflux, the excessive reagents are decomposed by very slowly adding 7 ml of 15% caustic soda and, finally, 21 ml of water. After filtering and washing the precipitate with 2×200 ml of ether, the organic phase is washed, dried over Na2SO4 and then evaporated to dryness under vacuum.

reactant | lithium aluminium hydride | 6.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminium chloride | 44.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-amino-2-chlorobenzophenone | 22 g | NC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)Cl | C13H10ClNO
reactant | caustic soda | 7 ml | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | ether | 1000 ml | CCOCC | C4H10O
solvent | water | 21 ml | O | H2O
product | 3-benzyl-4-chloroaniline | C(C1=CC=CC=C1)C=1C=C(N)C=CC1Cl | C13H12ClN
